US07709521B2
(i) 3-(4-Chlorophenoxy)-5-fluoro-2-methyl-1H-indole
1-(4-Chloro-phenoxy)-propan-2-one (2.05 g) was added to a stirred solution of (4-fluoro-phenyl)-hydrazine (1.4 g) in ethanol (30 ml) at RT. After 2 h, the solvent was removed under reduced pressure and the residue dissolved in DCM (30 ml). Phosphorus trichloride (1.06 ml) was added dropwise to the solution and after stirring at RT for 16 h the reaction was quenched with aq. sodium hydrogencarbonate solution. The mixture was extracted with DCM, the organics washed with water, dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 20% ethylacetate/iso-hexane. Yield 0.75 g

reactant | 1-(4-Chloro-phenoxy)-propan-2-one | 2.05 g | ClC1=CC=C(OCC(C)=O)C=C1 | C9H9ClO2
reactant | (4-fluoro-phenyl)-hydrazine | 1.4 g | FC1=CC=C(C=C1)NN | C6H7FN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-Chlorophenoxy)-5-fluoro-2-methyl-1H-indole | ClC1=CC=C(OC2=C(NC3=CC=C(C=C23)F)C)C=C1 | C15H11ClFNO
